US06716851B2
4-(2,3-Dimethoxyanilino)-6-methyl-2-(2-pyridinyl)pyrimidine
The title compound was prepared from 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (100 mg, 0.486 mmol) and 2,3-dimethoxyaniline (69 μl, 0.486 mmol) similar to Example 11 and isolated as a white solid (169 mg). 1H NMR (CDCl3): 8.85-8.82 (m, 1H), 8.48 (d, J=7.8 Hz, 1H), 7.87-7.82 (m, 1H), 7.54 (d, J=7.5 Hz, 1H), 7.40-7.35 (m, 2H), 7.10 (t, J=8.4 Hz, 1H), 6.73 (d, J=1.5 Hz, 1H), 7.00 (s, 1H), 3.90 (s, 3H), 3.86 (s, 3H), 2.53 (s, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.486 mmol, 100 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | 2,3-dimethoxyaniline | 0.486 mmol, 69 μl | COC1=C(N)C=CC=C1OC | C8H11NO2
product | 4-(2,3-Dimethoxyanilino)-6-methyl-2-(2-pyridinyl)pyrimidine | COC1=C(NC2=NC(=NC(=C2)C)C2=NC=CC=C2)C=CC=C1OC | C18H18N4O2
